US08937071B2
Step 3: 2-(4-Bromo-2,3-difluorophenyl)acetonitrile
To a solution of 1-bromo-4-(bromomethyl)-2,3-difluorobenzene (330 mg, 1.154 mmol) in ethanol (10 mL) stirred under N2 at 0° C. was added NaCN (73.5 mg, 1.500 mmol) in one charge. The reaction mixture was stirred at 10° C. for 12 h. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The resulting 2-(4-bromo-2,3-difluorophenyl)acetonitrile was used in the next step without further purification. TLC (PE/EA=5:1, Rf 0.6): 1H NMR (400 MHz, CDCl3) δ 7.39 (ddd, J=1.8, 6.1, 8.2 Hz, 1H), 7.15 (t, J=6.8 Hz, 1H), 3.78 (s, 2H).

reactant | 1-bromo-4-(bromomethyl)-2,3-difluorobenzene | 1.154 mmol, 330 mg | BrC1=C(C(=C(C=C1)CBr)F)F | C7H4Br2F2
reactant | NaCN | 1.500 mmol, 73.5 mg | [C-]#N.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(4-Bromo-2,3-difluorophenyl)acetonitrile | BrC1=C(C(=C(C=C1)CC#N)F)F | C8H4BrF2N
